US08455475B2
9-(2-(1H-Imidazol-1-yl)ethoxy)-3-azaspiro[5.5]undecane (AMN-38)
TFA (6.25 ml) was added to a solution of tert-butyl 9-(2-(1H-imidazol-1-yl)ethoxy)-3-azaspiro[5.5]undecane-3-carboxylate (2.28 mmol, 1.0 eq.) in MC (25 ml) at 0° C. and the mixture was stirred at 25° C. for 2 h. The reaction mixture was concentrated under reduced pressure and the residue was azeotroped with MC to give the crude product which was used in the next step without further purification.

reactant | TFA | 6.25 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 9-(2-(1H-imidazol-1-yl)ethoxy)-3-azaspiro[5.5]undecane-3-carboxylate | 2.28 mmol, 1.0 eq. | N1(C=NC=C1)CCOC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C20H33N3O3
product | 9-(2-(1H-Imidazol-1-yl)ethoxy)-3-azaspiro[5.5]undecane | N1(C=NC=C1)CCOC1CCC2(CCNCC2)CC1 | C15H25N3O
